US07192967B1
N-[4-(2,5-dioxo-3-phenyl-2,5-dihydropyrrol-1-yl)-butyl]-3-pyridin-3-yl-acrylamide (substance 28)
2.7 g (17.8 mmol) 3-(3-pyridyl)-acrylic acid and 1.8 g (17.8 mmol) TEA are suspended in 50 ml abs. dichloromethane and cooled to ca. 0° C. under moisture exclusion. 3.1 g (17.8 mmol) 88% HOBT and 3.4 g (17.8 mmol) EDC are added and the mixture is stirred for 30 min under ice cooling. 5.0 g (17.8 mmol) 4-(2,5-dioxo-3-phenyl-2,5-dihydropyrrol-1-yl)-butylamine hydrochloride are dissolved in 30 ml abs. dichloromethane and added dropwise under ice cooling. The mixture is stirred overnight at RT without further cooling. Subsequently, the batch is washed with 25 ml 1M NaOH and with 50 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The resinous residue is chromatography pre-purified over silica gel with CHCl3/CH3OH (95/5) and further purified by flash chromatography with CHCl3/CH3OH (95/5). After withdraw of the solvent, this is crystallized from acetic acid ethyl ester: Colorless crystals with MP. 141–143° C.; Yield 0.6 g (9%).

reactant | 3-(3-pyridyl)-acrylic acid | 17.8 mmol, 2.7 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | HOBT | 17.8 mmol, 3.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 17.8 mmol, 3.4 g
reactant | 4-(2,5-dioxo-3-phenyl-2,5-dihydropyrrol-1-yl)-butylamine hydrochloride | 17.8 mmol, 5.0 g | Cl.O=C1N(C(C=C1C1=CC=CC=C1)=O)CCCCN
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(2,5-dioxo-3-phenyl-2,5-dihydropyrrol-1-yl)-butyl]-3-pyridin-3-yl-acrylamide | O=C1N(C(C=C1C1=CC=CC=C1)=O)CCCCNC(C=CC=1C=NC=CC1)=O | C22H21N3O3
